US05541186
In analogy to Example 1, part a), from 0.15 ml of morpholine-4-carbonyl chloride and 200 mg of p-tert-butyl-N-[6-(2-hydroxy-ethoxy) -5-(m-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide with the addition of 154 mg of dimethylaminopyridine at a reaction period of 12 hours there was obtained morpholine-4-carboxylic acid 2-[6-(4-tert -butyl-phenylsulfonylamino)-5-(3-methoxy-phenoxy)-pyrimidin-4-yloxy]-ethyl ester. MS: 587.4 (M+H).

reactant | morpholine-4-carbonyl chloride | 0.15 ml | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | p-tert-butyl-N-[6-(2-hydroxy-ethoxy) -5-(m-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide | 200 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=CC(=CC=C1)OC)OCCO | C23H27N3O6S
reactant | dimethylaminopyridine | 154 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | morpholine-4-carboxylic acid 2-[6-(4-tert -butyl-phenylsulfonylamino)-5-(3-methoxy-phenoxy)-pyrimidin-4-yloxy]-ethyl ester | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NC=N1)OCCOC(=O)N1CCOCC1)OC1=CC(=CC=C1)OC | C28H34N4O8S
